US08124299B2
1-ethynyl-4-(3,5-dimethyoxyphenylethynyl)benzene.
Into a 100 ml round bottom flask was placed a mixture of 2.27 g (0.0068 mole) of 1-(trimethylsilylethynyl)-4-(3,5-dimethoxyphenylethynyl)benzene, 1.88 g (0.0136 mole) potassium carbonate, 30 ml of methanol and 30 ml of methylene chloride. The mixture was stirred at room temperature overnight under nitrogen. The dark brown suspension was filtered through an alumina bed to remove some color, and the still dark color filtrate was washed twice with water (30 ml each). The aqueous layers were combined and extracted twice with methylene chloride (20 ml each). The methylene chloride layers were combined and dried over anhydrous MgSO4, filtered and concentrated. 1.13 g of brown oil was obtained. The crude oil was purified by Preparative LC using 1:10 EtOAc:hexane as eluting solvent. 240 mg (13.5% yield) of yellow solid was obtained. 1HNMR: 3.20 ppm (s, 1H); 3.83 ppm (s, 6H); 6.50 ppm (t, 1H); 6.71 ppm (d, 2H); 7.50 ppm (s, 4H).

reactant | 1-(trimethylsilylethynyl)-4-(3,5-dimethoxyphenylethynyl)benzene | 0.0068 mole, 2.27 g | C[Si](C)(C)C#CC1=CC=C(C=C1)C#CC1=CC(=CC(=C1)OC)OC | C21H22O2Si
reactant | potassium carbonate | 0.0136 mole, 1.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 30 ml | CO | CH4O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-ethynyl-4-(3,5-dimethyoxyphenylethynyl)benzene | 1.13 g | C(#C)C1=CC=C(C=C1)C#CC1=CC(=CC(=C1)OC)OC | C18H14O2
